US05541195
(2R*,4S*)-2-Benzyl-1-(1-naphthoyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine
92 μl (0.655 mmol) of 1-chloro-N,N,2-trimethyl-1-propen-1-amine are added to a solution of 96 mg (0.561 mmol) of 1-naphthoic acid in 2 ml of dry methylene chloride at 0°, and the mixture is stirred at 0° for 1 hour and at room temperature for 1 hour. Subsequently a solution of 200 mg (0.468 mmol) of (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine and 130 μl (0.936 mmol) of triethylamine in 3 ml of methylene chloride is added dropwise over the course of 10 minutes to this yellow solution at room temperature. After stirring at room temperature for 3 hours, water is added, the organic phase is separated off and washed twice more with water. The organic phases are dried over magnesium sulfate and evaporated to dryness. The yellow oil is chromatographed on silica gel with methylene chloride/methanol/conc. ammonia (800:50:1). The title compound is obtained as yellow oil. TLC: methylene chloride/methanol/conc. ammonia (700:50:1) Rf =0.49, FD-MS: M+ =581.

reactant | 1-chloro-N,N,2-trimethyl-1-propen-1-amine | 0.655 mmol, 92 μl | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | 1-naphthoic acid | 0.561 mmol, 96 mg | C1(=CC=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 0.468 mmol, 200 mg | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12 | C24H24F3N3O
reactant | triethylamine | 0.936 mmol, 130 μl | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (2R*,4S*)-2-Benzyl-1-(1-naphthoyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C(=O)C1=CC=CC2=CC=CC=C12 | C35H30F3N3O2
